US07687502B2
6-[2-Chloro-6-(ethylsulfonyl)phenoxy]-N-(3-methyl-1,2,4-thiadiazol-5-yl)quinazolin-4-yl-amine
The compound of Example 137 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 1,2-dichloro-3-(ethanesulfonyl)benzene, 5-amino-3-methyl-[1,2,4]thiadiazole and 4-chloro-6-hydroxy-quinazoline.

reactant | 1,2-dichloro-3-(ethanesulfonyl)benzene | ClC1=C(C(=CC=C1)S(=O)(=O)CC)Cl | C8H8Cl2O2S
reactant | 5-amino-3-methyl-[1,2,4]thiadiazole | NC1=NC(=NS1)C | C3H5N3S
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | 6-[2-Chloro-6-(ethylsulfonyl)phenoxy]-N-(3-methyl-1,2,4-thiadiazol-5-yl)quinazolin-4-yl-amine | ClC1=C(OC=2C=C3C(=NC=NC3=CC2)NC2=NC(=NS2)C)C(=CC=C1)S(=O)(=O)CC | C19H16ClN5O3S2
